US07312241B2
3-methoxybenzaldehyde (2.20 ml, 18.08 mmol), 1-bromo-3-methoxybenzene (2.52 ml, 19.89 mmol), and n-butyl lithium (7.96 ml, 19.89 mmol) were treated in the same manner as described above for the synthesis of 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile. The crude was purified via flash column chromatography (10% EtOAc in hexane gradient to 25% EtOAc in hexane in about 40 min.) to give bis-(3-methoxy-phenyl)-methanol as a light yellow oil (4.45 g, 100%): 1HNMR (CDCl3) 7.28-7.21 (m, 2H, Ar), 6.96-6.94 (m, 4H, Ar), 6.82-6.78 (m, 2H, Ar), 5.78 (d, J=3 Hz, 1H, CHOH), 3.78 (s, 6H, 2OCH3 groups), 2.25 (d, J=3 Hz, 1H, OH). The product was carried over to the next step.

reactant | 3-methoxybenzaldehyde | 18.08 mmol, 2.20 ml | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | 1-bromo-3-methoxybenzene | 19.89 mmol, 2.52 ml | BrC1=CC(=CC=C1)OC | C7H7BrO
reactant | n-butyl lithium | 19.89 mmol, 7.96 ml | C(CCC)[Li]
reactant | 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile | COC=1C=C(C=C(C1)OC)C(=CC#N)C1=CC(=CC=C1)OC | C18H17NO3
product | bis-(3-methoxy-phenyl)-methanol | 4.45 g, 100% | COC=1C=C(C=CC1)C(O)C1=CC(=CC=C1)OC | C15H16O3
